US08492378B2
3-[4-(ethylthio)phenyl]-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine
In the same manner as in Example 132 and using 3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine instead of 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole, using [4-(ethylthio)phenyl]boronic acid instead of (4-fluorophenyl)boronic acid, and using [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride dichloromethane complex instead of tetrakis(triphenylphosphine)palladium(0), the title compound (yield 12%) was obtained as colorless crystals.

reactant | 3-bromo-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine | BrC1=COC=2C1=NC(=CC2)C=2OC(=NN2)C | C10H6BrN3O2
reactant | [4-(ethylthio)phenyl]boronic acid | C(C)SC1=CC=C(C=C1)B(O)O | C8H11BO2S
product | 3-[4-(ethylthio)phenyl]-5-(5-methyl-1,3,4-oxadiazol-2-yl)furo[3,2-b]pyridine | yield 12% | C(C)SC1=CC=C(C=C1)C1=COC=2C1=NC(=CC2)C=2OC(=NN2)C | C18H15N3O2S
